US05416212
A mixture of 6.56 g of 1,12-dibromododecane, 3.24 g of N-phenylpiperazine, 2.53 g of triethylamine, and 50 ml of toluene was heated under reflux for 2 hours. To the reaction mixture was added 100 ml of ethyl acetate, and the mixture was washed successively with water and a saturated sodium chloride aqueous solution, and dried over magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was subjected to column chromatography using a 1:2 mixture of ethyl acetate and hexane as a developing solvent to yield 4.1 g of 1-bromo-12-(4-phenylpiperazinyl)dodecane (m.p.=26.0°-28.0° C.).

reactant | 1,12-dibromododecane | 6.56 g | BrCCCCCCCCCCCCBr | C12H24Br2
reactant | N-phenylpiperazine | 3.24 g | C1(=CC=CC=C1)N1CCNCC1 | C10H14N2
reactant | triethylamine | 2.53 g | C(C)N(CC)CC | C6H15N
reactant | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | 1-bromo-12-(4-phenylpiperazinyl)dodecane | 4.1 g | BrCCCCCCCCCCCCN1CCN(CC1)C1=CC=CC=C1 | C22H37BrN2
